US07078405B2
N-[8-(2,4-Dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-yl ]-N,N-dipropylamine
Propionaldehyde (0.435 mL, 6.0 mmol) and 3M sulfuric acid (2.01 mL, 6.0 mmol) were added to a solution of the crude 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-amine (1.2 mmol) in tetrahydrofuran (10 mL) under ice-cooling, and sodium borohydride (182 mg, 4.8 mmol) was gradually added at the same temperature. After heating under stirring for 30 minutes, it was stirred at room temperature for 20 minutes, and neutralized by adding a 5N aqueous sodium hydroxide solution under ice-cooling. Water was added thereto, which was extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:15) to give the title compound (42 mg, 10% (4 steps)) as yellow crystals.

reactant | Propionaldehyde | 6.0 mmol, 0.435 mL | C(CC)=O | C3H6O
reactant | sulfuric acid | 6.0 mmol, 3M, 2.01 mL | S(O)(O)(=O)=O | H2O4S
reactant | 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-amine | 1.2 mmol | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)N | C16H18N4
reactant | sodium borohydride | 4.8 mmol, 182 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-[8-(2,4-Dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazin-3-yl ]-N,N-dipropylamine | 42 mg, 10% | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)N(CCC)CCC | C22H30N4
